US08278343B2
Preparation 37: 1-(4-Chloro-benzoyl)-3-[6-(4-chloro-phenyl)-pyridin-3-yloxymethyl]-pyrrolidine-3-carboxylic acid ethyl ester
The title compound was prepared according to the method described for Preparation 29 using 6-(4-chloro-phenyl)-pyridin-3-ol (Preparation 23) and 1-(4-chloro-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 13) to afford the racemate as a white solid (56 mg, 27%)

reactant | 6-(4-chloro-phenyl)-pyridin-3-ol | ClC1=CC=C(C=C1)C1=CC=C(C=N1)O | C11H8ClNO
reactant | 1-(4-chloro-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)Cl)=O)CI | C15H17ClINO3
product | 1-(4-Chloro-benzoyl)-3-[6-(4-chloro-phenyl)-pyridin-3-yloxymethyl]-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)Cl)=O)COC=1C=NC(=CC1)C1=CC=C(C=C1)Cl | C26H24Cl2N2O4
